US08981111B2
To a solution of 5-Bromo-1-methyl-imidazole (18.8 g, 117 mmol) in dichloromethane (50 mL) was added dropwise ethylmagnesium bromide (3 M in Et2O, 38.9 mL, 117 mmol). After stirring at room temperature for 30 min, the reaction mixture was cooled down to 0° C. with an ice-brine bath and N-methoxy-N-methylthiophene-3-carboxamide (20.0 g, 117 mmol) was added dropwise. The mixture was stirred for 3.5 h at room temperature. The mixture was worked-up by addition of water (400 mL), then acidified with aq. HCl (1 M) until pH=7. After extraction with dichloromethane (3×100 mL), the organic layers were washed with water (100 mL) then dried over MgSO4 and concentrated in vacuo. Purification of the residue on silica gel afforded (1-methyl-1H-imidazol-5-yl)(3-thienyl)methanone [11.6 g, yield 41%; HPLC/MS: m/z=193 (M+H); log P(HCOOH)=0.43].

reactant | 5-Bromo-1-methyl-imidazole | 117 mmol, 18.8 g | BrC1=CN=CN1C | C4H5BrN2
reactant | ethylmagnesium bromide | 117 mmol, 3 M, 38.9 mL | C(C)[Mg]Br
reactant | N-methoxy-N-methylthiophene-3-carboxamide | 117 mmol, 20.0 g | CON(C(=O)C1=CSC=C1)C | C7H9NO2S
reactant | HCl | 1 M | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 400 mL | O | H2O
product | (1-methyl-1H-imidazol-5-yl)(3-thienyl)methanone | 11.6 g, yield 41% | CN1C=NC=C1C(=O)C1=CSC=C1 | C9H8N2OS
